US07199154B2
Step 1: 5-bromopentyl (2Z)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-enyl carbonate
To a solution of 5-bromo-1-pentanol (1 eq, 0.35M) in CH2Cl2 was added pyridine (1.1 eq). The mixture was cooled at −78° C. and a solution of triphosgene (0.33 eq, 0.1M) was slowly added, the mixture was warmed to rt and stirred for 5 min. The reaction mixture was then slowly added to a mixture of (2Z)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-en-1-ol (L eq) and pyridine (1 eq) in CH2Cl (0.35M) precooled at −78° C. The reaction mixture was warmed to 0° C. and stirred 5 min. Saturated aqueous ammonium chloride was added and the mixture was extracted with EtOAc. The combined organic layers were dried over Na2SO4, filtered and concentrated. The residue was purified by flash chromatography on silica gel eluted with 1:6 to 1:1 EtOAc/hexanes to give the titled compound.

reactant | 5-bromo-1-pentanol | 0.35M, 1 eq | BrCCCCCO | C5H11BrO
reactant | pyridine | 1.1 eq | N1=CC=CC=C1 | C5H5N
reactant | triphosgene | 0.1M, 0.33 eq | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | (2Z)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-en-1-ol | [Si](C)(C)(C(C)(C)C)OC\C(=C(/CO)\C1=CC=C(C=C1)S(=O)(=O)C)\C1=CC=CC=C1 | C23H32O4SSi
reactant | pyridine | 1 eq | N1=CC=CC=C1 | C5H5N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-bromopentyl (2Z)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-enyl carbonate | C(OCCCCCBr)(OC\C(=C(/CO[Si](C)(C)C(C)(C)C)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C)=O | C29H41BrO6SSi
